US09371320B2
D) 3-bromo-1-cyclopentyl-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one
To a solution of 1-cyclopentyl-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one (3.40 g) in DMF (42.0 mL) was added trimethylsilyl N-(trimethylsilyl)ethanimidate (7.52 g) at room temperature, and the mixture was stirred at 40° C. for 3 hr. The reaction mixture was allowed to be cooled to room temperature, and NBS (3.59 g) was added thereto at room temperature. The reaction mixture was stirred overnight at room temperature, water was added thereto, and the mixture was stirred at room temperature for 2 hr. The white precipitate was collected by filtration, and dried under reduced pressure to give the title compound (3.28 g).

reactant | 1-cyclopentyl-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one | 3.40 g | C1(CCCC1)N1C=CC=2C(NC=CC21)=O | C12H14N2O
reactant | trimethylsilyl N-(trimethylsilyl)ethanimidate | 7.52 g | C[Si](N=C(C)O[Si](C)(C)C)(C)C | C8H21NOSi2
reactant | NBS | 3.59 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | O | H2O
solvent | DMF | 42.0 mL | CN(C)C=O | C3H7NO
product | 3-bromo-1-cyclopentyl-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one | 3.28 g | BrC1=CN(C2=C1C(NC=C2)=O)C2CCCC2 | C12H13BrN2O
